US07727989B2
4-(1H-Benzimidazol-2-yl)-6-[2-methylsulfanyl pyrimidin-4-yl]-2H-pyridazin-3-one
The compound is prepared in analogy to example 15. A Stille coupling is carried out instead of the Suzuki coupling. This entails dissolving 6-chloro-4-[1-(2-trimethylsilanylethoxymethyl)-1H-benzimidazol-2-yl]-2-(2-trimethylsilanylethoxy-methyl)-2H-pyridazin-3-one, 2-methylsulfanyl-4-tributylstannylpyrimidine, tetra-ethylammonium chloride and bis(triphenylphosphine)palladium(II) chloride in DMF under argon and heating at 80° C. for 6 hours. After cooling to room temperature, 30% aqueous potassium fluoride solution is added, and the mixture is stirred for 30 minutes. Extraction with ethyl acetate and drying on a drying column afford after purification on SiO2 4-[1-(2-trimethylsilanylethoxymethyl)-1H-benzimidazol-2-yl]-6-(2-methyisulfanylpyrimidin-4-yl)-2-(2-trimethylsilanylethoxymethyl)-2H-pyridazin-3-one which is reacted further in analogy to example 15.

reactant | 6-chloro-4-[1-(2-trimethylsilanylethoxymethyl)-1H-benzimidazol-2-yl]-2-(2-trimethylsilanylethoxy-methyl)-2H-pyridazin-3-one | ClC=1C=C(C(N(N1)COCC[Si](C)(C)C)=O)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2 | C23H35ClN4O3Si2
reactant | 2-methylsulfanyl-4-tributylstannylpyrimidine | CSC1=NC=CC(=N1)[Sn](CCCC)(CCCC)CCCC
reactant | potassium fluoride | [F-].[K+]
catalyst | tetra-ethylammonium chloride | [Cl-].C(C)[N+](CC)(CC)CC
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(1H-Benzimidazol-2-yl)-6-[2-methylsulfanyl pyrimidin-4-yl]-2H-pyridazin-3-one | N1C(=NC2=C1C=CC=C2)C=2C(NN=C(C2)C2=NC(=NC=C2)SC)=O | C16H12N6OS
